US05417959
A solution of 1,1,1-tris(phthalimidoethoxymethyl)ethane (4.0 g, 6.30 mmol) in 100 mL of absolute ethanol was heated to 50C. Then a 55% solution of hydrazine hydrate (3.7 mL, 63.00 mmol) was added dropwise and the resulting mixture was heated at 50° C. for 5 hrs. The reaction was cooled to 25° C. and the solids were filtered. The filtrate was evaporated to give an oil which was purified over reversed phase packing (C-18) using a methanol/water gradient as eluant to yield 1,1,1-tris(aminoethoxymethyl)ethane (1.3 g, 5.22 mmol, 83 % ).

reactant | 1,1,1-tris(phthalimidoethoxymethyl)ethane | 6.30 mmol, 4.0 g | C1(C=2C(C(N1CCOCC(C)(COCCN1C(C=3C(C1=O)=CC=CC3)=O)COCCN3C(C=1C(C3=O)=CC=CC1)=O)=O)=CC=CC2)=O | C35H33N3O9
reactant | hydrazine hydrate | 63.00 mmol, 3.7 mL | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1,1,1-tris(aminoethoxymethyl)ethane | 5.22 mmol, 1.3 g, 83 % | NCCOCC(C)(COCCN)COCCN | C11H27N3O3
